US07091214B2
Trimethyl orthobutyrate (11.61 mL, 72.6 mmol) and catalytic pyridine hydrochloride were added to a solution of 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol (22.51 g, 72.6 mmol) in anhydrous toluene (120 mL), and the reaction was heated at reflux for two hours. The solvent was removed under reduced pressure, and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was removed under reduced pressure until a precipitate began to form. Hexanes were added, and the precipitate was isolated by filtration to provide 20.17 g of 1-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol.

reactant | Trimethyl orthobutyrate | 72.6 mmol, 11.61 mL | C(CCC)(OC)(OC)OC | C7H16O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol | 72.6 mmol, 22.51 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(O)C)Br | C13H16BrN3O
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 20.17 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CCC | C17H20BrN3O
